US07745475B2
Methyl 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate
To a portion of methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxybenzoate (102 mg, 0.3 mmol) and 1-(3,4-difluorobenzoyl)azetidine (71 mg, 0.36 mmol) in DMF (2.0 mL) was added potassium carbonate (207 mg, 1.5 mmol) and the stirred mixture heated at 160° C. in a ‘Smith Creator Microwave’ for 120 minutes. The mixture was allowed to reach ambient temperature and pressure then partitioned between ethyl acetate (2×25 mL) and water (25 mL). The organic layer was separated, washed with brine, dried (MgSO4), and evaporated in vacuo to give the crude product which was used without further purification (100 mg).

reactant | methyl 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-hydroxybenzoate | 0.3 mmol, 102 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)OC)C=C(C1)O)C | C17H28O5Si
reactant | 1-(3,4-difluorobenzoyl)azetidine | 0.36 mmol, 71 mg | FC=1C=C(C(=O)N2CCC2)C=CC1F | C10H9F2NO
reactant | potassium carbonate | 1.5 mmol, 207 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[4-(azetidin-1-ylcarbonyl)-2-fluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]benzoate | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)OC)C=C(C2)O[C@H](CO)C)C=C1)F | C21H22FNO6
